US06936612B2
8-Cyclopentyl-6-(2-methoxy-ethoxymethyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (1.46 g, 4.18 mmol) and 2-benzenesulfonyl-3-phenyl-oxaziridine (1.31 g, 5.01 mmol) were dissolved in dichloromethane (10 mL) and stirred at ambient temperature for 12 hours. The reaction mixture was then purified by silica gel chromatography to give 8-cyclopentyl-2-methanesulfinyl-6-(2-methoxy-ethoxymethyl)-8H-pyrido[2,3-d]pyrimidin-7-one as a white waxy solid (0.60 g, 39.3%). 1H NMR δ (400 MHz, CDCl3) 8.94 (s, 1H), 7.88 (t, J=1.7 Hz, 1H), 5.95 (m, 1H), 4.52 (d, J=1.7 Hz, 1H), 3.80 (m, 2H), 3.65 (m, 2H), 3.43 (s, 3H), 2.98 (s, 3H), 2.25 (m, 2H), 2.13 (m, 2H), 1.94 (m, 2H), 1.70 (m, 2H).

reactant | 8-Cyclopentyl-6-(2-methoxy-ethoxymethyl)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 4.18 mmol, 1.46 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)COCCOC)=O | C17H23N3O3S
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 5.01 mmol, 1.31 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 8-cyclopentyl-2-methanesulfinyl-6-(2-methoxy-ethoxymethyl)-8H-pyrido[2,3-d]pyrimidin-7-one | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)COCCOC)=O | C17H23N3O4S
